Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:13].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12]/[C:14]([H:15])([H:16])[H:17],4.793224908430001
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:3][C:5](=[C:4])[H:6],7.389978204319999
[C:7]([H:8])([H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.4109615023
[C:3]([H:4])([H:5])[H:6].[H:1][C:2][C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14],-4.84684170824
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],1.8955717558200005
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[O:8][H:9]>>[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7].[O:8][H:9],3.10352276685
[H:15].[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.97942584917
[H:1][C:2][O:3][C@:4]1([C:5]([H:6])([H:7])[H:8])[O:9][C:10]1[H:11]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[O:9][C:10][H:11],1.7830914051099995
[C:1][C:2][O:3].[C:4](#[C:5][H:6])[O:7][H:8]>>[C:1]#[C:2][O:3][C:4](=[C:5][H:6])[O:7][H:8],1.23891327169
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1],3.88669709274
[C:1]#[C:2][C:3]([H:4])[O:5][C:6](=[O:7])[H:8]>>[C:1]#[C:2].[C:3]([H:4])[O:5][C:6](=[O:7])[H:8],7.32242255838
[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-3.91946687161
[H:1][C:2](=[C:3]=[O:4])[O:11][C:8]([C:5]([H:6])[H:7])([H:9])[H:10]>>[H:1][C:2]1=[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11]1,-0.0881518458608999
[H:1][O:2][C:3].[O:4]=[C:5]([H:6])[H:7]>>[H:1][O:2][C:3][O:4][C:5]([H:6])[H:7],-1.05127944
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:10].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[C:11]([H:12])[H:13],4.85353427154
[H:1][C:2]([H:3])=[C:4]([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])=[C:4]([H:5])[C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14],4.06792921136
[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][C:2]=[C:3]([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12].[O:13][H:14],2.77009845182
[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12][H:13].[H:14]>>[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-5.254765974380001
[C:4]#[C:5][H:6].[O:1][O:2][C:3][C:7]([H:8])([H:9])[H:10]>>[O:1][O:2][C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-6.3933937846500015
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:10]([H:11])[H:12].[H:9],4.7846240175
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7][H:8],4.30635379741
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],3.99535834847
[C:6]([H:7])[H:8].[H:1][C:2]([H:3])[O:4][C:5][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-7.2049279730299975
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4][H:5],8.09232059508
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])[H:5].[O:6]=[C:7]([H:8])[H:9],0.769695301831
[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-2.9496665409500005
[H:3].[O:1]=[C:2]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][C@:2]([H:3])([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.824526765787
[H:5].[O:1]=[C:2]([C:3]#[C:4])[O:6][C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([C:3]#[C:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10],-5.98549679862
